US07312233B2
Preparation of (6-amino-1H-indazol-3-yl)methanol
6-nitro-1H-indazole-3-carbaldehyde (500 mg, 0.003 mol) was dissolved in 50 mL THF. Lithium tetrahydroaluminate (400 mg, 0.01 mol) was added in 3 portions and the reaction mixture was stirred at room temperature overnight. Water (400 μL), 15% NaOH solution (400 μL), then water (1.2 mL) was added, and then the crystalline brown-yellow precipitate was filtered off. The filtrate was concentrate to an oil which was used directly in the next step without further purification. m/z=164.0. 1H NMR (d4-MeOH) δ 7.2 (1H, d), 7.05 (1H, d), 6.85 (1H, dd), 4.74 (2H, s).

reactant | 6-nitro-1H-indazole-3-carbaldehyde | 0.003 mol, 500 mg | [N+](=O)([O-])C1=CC=C2C(=NNC2=C1)C=O | C8H5N3O3
reactant | Lithium tetrahydroaluminate | 0.01 mol, 400 mg | [AlH4-].[Li+]
reactant | Water | 400 μL | O | H2O
reactant | NaOH | 400 μL | [OH-].[Na+]
reactant | water | 1.2 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6-amino-1H-indazol-3-yl)methanol | NC1=CC=C2C(=NNC2=C1)CO | C8H9N3O
